US05716756
5.16 g (20 mmol) of 1,1,1,3,3,3-hexafluoro-2-p-tolylpropan-2-ol were dissolved in 50 ml of methylene chloride, and 2.8 g (28 mmol) of triethylamine were added. 3.2 g (22 mmol) of methanesulfonyl chloride were added dropwise, while stirring, to the solution cooled to 5° C. After warming up to room temperature, the mixture was allowed to stand overnight. The precipitated salt was filtered off and the organic solution was evaporated down. The subsequent chromatography (silica gel/methylene chloride) gave 4.8 g of 2-methanesulfonyloxy-2-p-tolyl-1,1,1,3,3,3-hexafluoropropane (pale yellow oil).

reactant | 1,1,1,3,3,3-hexafluoro-2-p-tolylpropan-2-ol | 20 mmol, 5.16 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)C)(F)F | C10H8F6O
reactant | triethylamine | 28 mmol, 2.8 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 22 mmol, 3.2 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-methanesulfonyloxy-2-p-tolyl-1,1,1,3,3,3-hexafluoropropane | 4.8 g | CS(=O)(=O)OC(C(F)(F)F)(C(F)(F)F)C1=CC=C(C=C1)C | C11H10F6O3S
